US04730003
7,7-Dimethyl-2-hydroxy-6,7-dihydro-3H,5H-pyrrolo[ 2,3-f]benzimidazol-6-one
Into a solution of 4.00 g. (0.021 mole) 5,6-diamino-3,3-dimethylindolin-2-one in 60 ml. 2N hydrochloric acid is passed phosgene at ambient temperature for 1 hour. Thereafter, nitrogen is passed through the solution for 10 minutes and the solution then left to stand for 15 hours. The precipitate is filtered off and crystallised from methanol. There are obtained 2.80 g. (62% of theory) of the title compound; m.p. >300° C.

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | 0.021 mole | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 7,7-Dimethyl-2-hydroxy-6,7-dihydro-3H,5H-pyrrolo[ 2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)O)C=C21)=O)C | C11H11N3O2
